Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[H:1],3.89093390509
[H:1][O:2][C:3](=[C:4][H:5])[O:9][C:6]([H:7])[H:8]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9]1,-3.23870976011
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1][C:2]#[C:3][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:4],4.0135238329
[C:1].[C:2](\[O:3][H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]/[C:2]([O:3][H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-5.06743154035
[H:1][C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8]\[C:9]([H:10])([H:11])[H:12],4.61125371693
[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-0.92274647207
[H:1][C:2]=[C:4]([H:5])[C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.96848862568
[C:1][C@:2]([H:3])([O:4][O:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1].[C:2]([H:3])([O:4][O:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],2.68345638502
[C:6]([H:7])[H:8].[H:1][O:2][C:3][O:4][C:5]=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3][O:4][C:5]([C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],-5.78463172845
[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],4.2591858849
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-3.52957713494
[H:1][C:2]([H:3])([H:4])[O:5]/[C:6]=[C:7]1\[O:8][C:9]1([H:10])[H:11]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][O:8][C:9]([H:10])[H:11],0.5486853067199999
[H:14].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-1.93080869724
[H:1][C:2]([H:3])[H:4].[O:5][C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])[O:5][C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-3.7070512611
[H:1][C:2]([H:3])[C:4]#[C:5][C:6][O:7][C:8]([H:9])[H:10]>>[C:5]#[C:6][O:7][C:8]([H:9])[H:10].[H:1][C:2]([H:3])=[C:4],5.12773286716
[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11].[O:1]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11],-8.008032254460003
[C:11]([H:12])[H:13].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.267767421409999
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7]>>[C:3]([H:4])=[C:5]([H:6])[H:7].[O:1]=[C:2],1.55203471144
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:8]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-2.43435752844
[C:1].[C:2]([O:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.91683159733
[H:1][C:2]([H:3])=[C:4]([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:11].[H:1][C:2]([H:3])=[C:4]([H:5])[C@@:6]([H:7])([C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],4.579258021569999
[H:11].[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9][H:10]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11],-4.08357558546
[C:1].[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7]/[O:8][H:9]>>[C:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7]/[O:8][H:9],-5.04091712115
[C:4]([H:5])([H:6])[H:7].[H:1][C:2](=[O:3])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-0.6830444872310001
[C:2]#[C:3][C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1][C:2]#[C:3][C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.441779551130001
[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7][H:8]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-7.54814421479
[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([H:3])[C:4]([H:5])[O:8][C:9]([H:10])([H:11])[H:12].[O:6][H:7],4.74854996682
[C:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10][H:11]>>[C:1]=[C:2]([H:3])[H:4].[O:5]=[C:6]([H:7])[C:8]([H:9])=[C:10][H:11],-2.02562326587
